US09328111B2
A solution of methyl 2-(2-(((benzyloxy)carbonyl)amino)-2-methylpropanoyl)-5-oxo-1,2,3,4,5,10-hexahydrobenzo[b][1,7]naphthyridine-6-carboxylate (0.11 g) and hydrazine hydrate (1.0 mL) in DMA (1.5 mL) was heated at 130° C. for 1.5 h, acetic acid (2.0 mL) was added and the mixture was stirred at 130° C. for another 12 hours. The reaction mixture was cooled to room temperature, then water (15 mL) and EtOAc (50 mL) were added. The organic phase was separated and then washed with aqueous NaHCO3 (2×10 ml) and brine (20 ml), dried over Na2SO4, filtered, the organic phase was concentrated in vacuum to give the crude product, which was purified by Pre-HPLC to afford benzyl (2-methyl-1-oxo-1-(3-oxo-10,11-dihydro-2H-phthalazino[8,1-bc][1,7]naphthyridin-9(3H,7H,8H)-yl)propan-2-yl)carbamate (46 mg, 42%) as a yellow solid. 1H NMR (DMSO-d6) δ 11.8 (s, 1H), 10.6 (s, 1H), 8.4 (s, 1H), 7.65 (t, 1H, J=7.8 Hz), 7.49 (d, 1H, J=7.8 Hz), 7.25-7.35 (m, 6H), 4.90-4.91 (m, 2H), 4.34-4.40 (m, 2H), 3.83-3.89 (m 2H), 2.32-2.34 (m, 2H), and 1.40 (s, 6H). MS (ESI) m/e [M+1]+460.0.

reactant | methyl 2-(2-(((benzyloxy)carbonyl)amino)-2-methylpropanoyl)-5-oxo-1,2,3,4,5,10-hexahydrobenzo[b][1,7]naphthyridine-6-carboxylate | 0.11 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)N1CCC=2C(C3=C(NC2C1)C=CC=C3C(=O)OC)=O)(C)C | C26H27N3O6
reactant | hydrazine hydrate | 1.0 mL | O.NN
reactant | acetic acid | 2.0 mL | C(C)(=O)O | C2H4O2
reactant | water | 15 mL | O | H2O
solvent | DMA | 1.5 mL | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | benzyl (2-methyl-1-oxo-1-(3-oxo-10,11-dihydro-2H-phthalazino[8,1-bc][1,7]naphthyridin-9(3H,7H,8H)-yl)propan-2-yl)carbamate | 46 mg, 42% | CC(C(N1CCC=2C=3C4=C(NC2C1)C=CC=C4C(NN3)=O)=O)(C)NC(OCC3=CC=CC=C3)=O | C25H25N5O4
